US07745641B2
In a similar manner to Step 2 of Example 440, 4-chloro-5-(3-chloropropoxy)-7-[1-(tert-butoxycarbonyl)-5-(piperidin-1-ylmethyl)indol-2-yl]isoindolinone (97.6 mg, 0.170 mmol) was dissolved in N,N-dimethylacetoamide (1.0 mL), and the solution was treated with 4-piperidine methanol (0.196 mL, 1.70 mmol). The reaction mixture was added with water. The obtained solid was collected by filtration and washed with water, followed by drying under reduced pressure to obtain 4-chloro-5-[3-(4-hydroxymethylpiperidin-1-yl)propoxy]-7-[1-(tert-butoxycarbonyl)-5-(piperidin-1-ylmethyl)indol-2-yl]isoindolinone (87.2 mg, yield 79%).

reactant | 4-chloro-5-(3-chloropropoxy)-7-[1-(tert-butoxycarbonyl)-5-(piperidin-1-ylmethyl)indol-2-yl]isoindolinone | 0.170 mmol, 97.6 mg | ClC1=C2CNC(C2=C(C=C1OCCCCl)C=1N(C2=CC=C(C=C2C1)CN1CCCCC1)C(=O)OC(C)(C)C)=O | C30H35Cl2N3O4
reactant | 4-piperidine methanol | 1.70 mmol, 0.196 mL | N1CCC(CC1)CO | C6H13NO
reactant | water | O | H2O
solvent | N,N-dimethylacetoamide | 1.0 mL | CN(C(C)=O)C | C4H9NO
product | 4-chloro-5-[3-(4-hydroxymethylpiperidin-1-yl)propoxy]-7-[1-(tert-butoxycarbonyl)-5-(piperidin-1-ylmethyl)indol-2-yl]isoindolinone | 87.2 mg, yield 79% | ClC1=C2CNC(C2=C(C=C1OCCCN1CCC(CC1)CO)C=1N(C2=CC=C(C=C2C1)CN1CCCCC1)C(=O)OC(C)(C)C)=O | C36H47ClN4O5
